US06248739B1
N-(4-Chlorobenzyl)-1-[2-(diisopropylamino)ethyl]-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide from Preparation No. 5 (0.458 g) is dissolved in DMF (10 mL), and K2CO3 (0.69 g) and 2-(diisoproplyamino)ethyl chloride hydrochloride (0.50 g) are added. The reaction mixture is heated to 90° C. for 2 h, then allowed to stir at room temperature overnight. A drop of water is added and the mixture is heated for 20 h. An additional equivalent of 2-(diisoproplyamino)ethyl chloride hydrochloride (0.25 g, 1.25 mmol) is added and the mixture is heated at 100° C. for 5 h, and then stirred at room temperature overnight. Water is added and an oily solid formed, which is isolated by decanting the liquid. Column chromatography (elution with 1-2% MeOH/CHCl3) gave 0.45 g of a solid. Crystallization by dissolving in CH2Cl2 with a few drops of MeOH and adding to a 1:1 solution of pentane/Et2O gave 0.22 g of the title compound as a solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(3-hydroxy-1-propynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=CC=C(C=C3C2O)C#CCO)C=C1 | C20H15ClN2O3
reactant | K2CO3 | 0.69 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-(diisoproplyamino)ethyl chloride hydrochloride | 0.50 g | Cl.C(C)(C)N(CCCl)C(C)C
reactant | water | O | H2O
reactant | 2-(diisoproplyamino)ethyl chloride hydrochloride | 1.25 mmol, 0.25 g | Cl.C(C)(C)N(CCCl)C(C)C
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-1-[2-(diisopropylamino)ethyl]-6-(3-hydroxy-1-propynyl)-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 0.45 g | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)C#CCO)CCN(C(C)C)C(C)C)C=C1 | C28H32ClN3O3
